US08404709B2
4-(3-Acetyl-5-ethoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-3-fluorobenzonitrile
18 mg (0.056 mmol) of 4-(3-acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-fluorobenzonitrile are dissolved under an argon atmosphere in 5 ml abs. dichloromethane, and 21.2 mg (0.111 mmol) of triethyloxonium tetrafluoroborate are added. After a reaction time of two hours at room temperature (reaction checked by HPLC), the mixture is mixed with 5 ml of methanol and 0.5 ml of water and again stirred for 2 h. It is then diluted with 10 ml of water and extracted three times with dichloromethane. The combined organic phases are dried with sodium sulfate, and the solvent is removed in a rotary evaporator. The residue is purified by column chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate 3:7). 7 mg (35.4% of theory) of the title compound are obtained.

reactant | 4-(3-acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-fluorobenzonitrile | 0.056 mmol, 18 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C#N)C=C1)F)=O)C | C18H14FN3O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethyloxonium tetrafluoroborate | 0.111 mmol, 21.2 mg | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | methanol | 5 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 4-(3-Acetyl-5-ethoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-3-fluorobenzonitrile | C(C)(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=C(C#N)C=C1)F)OCC)C | C20H18FN3O2
